US04661438
2-Ethylbenzotellurazole
2-Phenylazophenyltellurium trichloride (Preparation A) (10.4 g, 0.025 mole) was suspended in ethanol (100 ml) in a flask equipped with a nitrogen gas inlet, magnetic stirrer, reflux condenser, and powder addition funnel. While stirring, under a nitrogen atmosphere, at room temperature, sodium borohydride (3.8 g, 0.10 mole) was added in increments at a rate sufficient to maintain a vigorous exothermic reaction. Stirring of the reaction mixture at room temperature was continued for 30 minutes after the addition was complete, maintaining the nitrogen atmosphere. A thermometer was inserted while still maintaining a nitrogen atmosphere and propionic anhydride (3.9 g, 0.03 mole) was added dropwise. The reaction temperature rose from 25° C. to 30° C. Upon completion of the addition, stirring was continued until the temperature returned to 25° C. Concentrated hydrochloric acid (25 ml) was added dropwise to the reaction mixture, resulting in formation of a black solid. The temperature rose to around 50° C. Stirring was continued until the temperature returned to 25° C. The black solid was removed by filtration, and washed with ethanol, and discarded. The filtrate was concentrated in a rotary evaporator, diluted with about an equal volume of water, filtered through a Celite® pad, and neutralized to a pH of about 7 with sodium bicarbonate. Extraction with diethyl ether and removal of the ether from the extracts left a red, oily semisolid, which was purified by being dissolved in dichloromethane and being applied to a thick layer silica gel chromatography plate. An ultraviolet absorbing substance separated as a pale yellow oil. This was determined to be pure by thin layer chromatography. The infrared and nuclear magnetic resonance spectra were in agreement with that expected for the structural formula.

reactant | 2-Phenylazophenyltellurium trichloride | C1(=CC=CC=C1)N=NC1=C(C=CC=C1)[Te](Cl)(Cl)Cl | C12H9Cl3N2Te
reactant | sodium borohydride | 0.10 mole, 3.8 g | [BH4-].[Na+]
reactant | propionic anhydride | 0.03 mole, 3.9 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | hydrochloric acid | 25 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-Ethylbenzotellurazole | C(C)C=1[Te]C2=C(N1)C=CC=C2 | C9H9NTe
